US04421690
To a mixture of 2.25 g (0.059 mol) of lithium aluminum hydride in 50 mL of ether at 0° C. was added dropwise, 11.30 g (0.040 mol) of 4-(1-ethoxyethoxy)-3,3-difluoro-4-methyl-1-pentanol 1-acetate in 130 mL of ether. The mixture was heated at reflux (35° C.) for 3 hr and then was recooled to 0° C. The mixture was quenched by adding dropwise 4.5 mL of water followed by 3.6 mL of 10% aqueous sodium hydroxide. The mixture was stirred at 25° C. for 0.5 hr and was filtered. Evaporation of solvent and column chromatography of the residue on 0.06-0.20 mm silica gel afforded 4-(1-ethoxyethoxy)-3,3-difluoro-4-methyl-1-pentanol. NMR (CDCl3) δ5.00 (quartet, 1, J=7 Hz), 3.86 (broad, 2), 3.51 (quartet, 2, J=7 Hz), 2.25 (multiplet, 2), 1.35 (triplet, 6, J=1 Hz), 1.30 (doublet, 3, J=7 Hz), and 1.18 ppm (triplet, 3, J=7 Hz).

reactant | lithium aluminum hydride | 0.059 mol, 2.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(1-ethoxyethoxy)-3,3-difluoro-4-methyl-1-pentanol 1-acetate | 0.040 mol, 11.30 g | C(C)(=O)OCCC(C(C)(C)OC(C)OCC)(F)F | C12H22F2O4
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 130 mL | CCOCC | C4H10O
product | 4-(1-ethoxyethoxy)-3,3-difluoro-4-methyl-1-pentanol | C(C)OC(C)OC(C(CCO)(F)F)(C)C | C10H20F2O3
